US08202863B2
A solution of ethyl-2-(4-fluorophenyl)-4-methylpyrimidine-5-carboxylate (1.65 g, 6.35 mmol) in MeOH (75 mL) is treated with 2 N aqueous sodium hydroxide (10 mL) and heated to reflux for 30 min. MeOH is removed in vacuo and the residue is diluted with water (50 mL). The solution is adjusted to pH ˜2 with 2 M hydrochloric acid. The precipitated is collected by filtration, washed with water and vacuum dried to afford 2-(4-fluorophenyl)-4-methylpyrimidine-5-carboxylic acid (1.3 g, 88%) as a solid. MS: 233 (M+H).

reactant | ethyl-2-(4-fluorophenyl)-4-methylpyrimidine-5-carboxylate | 6.35 mmol, 1.65 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)F)C | C14H13FN2O2
reactant | sodium hydroxide | 2 N, 10 mL | [OH-].[Na+]
solvent | MeOH | 75 mL | CO | CH4O
product | 2-(4-fluorophenyl)-4-methylpyrimidine-5-carboxylic acid | 1.3 g, 88% | FC1=CC=C(C=C1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
